US06479495B1
1-[[3-Methoxy-4-(dimethylaminocarbonyloxy)phenyl]methyl]-4-(2-fluorophenyl)piperazine
To a solution of 3-methoxy-4-(dimethylaminocarbonyloxy)benzaldehyde (1.50 g) in 1,2-dichloroethane (14 ml) was added 1-(2-fluorophenyl)piperazine (1.21 g) in 1,2-dichloroethane (13 ml) and sodium triacetoxyborohydride (2.14 g), with stirring. The reaction mixture was stirred for 4 hrs at ambient temperature, poured into saturated sodium carbonate solution (75 ml) and extracted with dichloromethane. The organic layers were combined, washed with water and brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and flash chromatographed (silica gel), eluting with dichloromethane, followed by 0.1, 0.2, 0.4, 0.5, 1, and 2% methanol:dichloromethane. The appropriate fractions were combined and concentrated to afford 2.03 g (78%) of product. Recrystallization from ethyl acetate gave the analytical sample, mp 130-133° C.

reactant | 3-methoxy-4-(dimethylaminocarbonyloxy)benzaldehyde | 1.50 g | COC=1C=C(C=O)C=CC1OC(=O)N(C)C | C11H13NO4
reactant | 1-(2-fluorophenyl)piperazine | 1.21 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 14 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 13 ml | ClCCCl | C2H4Cl2
solvent | sodium triacetoxyborohydride | 2.14 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-[[3-Methoxy-4-(dimethylaminocarbonyloxy)phenyl]methyl]-4-(2-fluorophenyl)piperazine | 2.03 g, 78% | COC=1C=C(C=CC1OC(=O)N(C)C)CN1CCN(CC1)C1=C(C=CC=C1)F | C21H26FN3O3
